US07601722B2
Dry diglyme (10 mL) was added to a flask equipped with a dropping funnel under a nitrogen atmosphere and brought to a vigorous reflux. N-(3,4-difluorophenyl)benzene-1,2-diamine (1.03 g, 4.7 mmol) and sulfamide (0.54 g, 5.6 mmol) were dissolved in 5 mL of diglyme and placed in the dropping funnel. The mixture was added dropwise to the flask over 15 minutes and then refluxing was continued for an additional 15 minutes. The mixture was cooled to ambient temperature and the reaction mixture was evaporated using high temperature. The crude reaction product was purified by flash chromatography (SiO2, 3-50% ethyl acetate/hexane) to provide 1-(3,4-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide (0.62 g, 47%) as a pink solid:

reactant | N-(3,4-difluorophenyl)benzene-1,2-diamine | 4.7 mmol, 1.03 g | FC=1C=C(C=CC1F)NC=1C(=CC=CC1)N | C12H10F2N2
reactant | sulfamide | 5.6 mmol, 0.54 g | S(=O)(=O)(N)N | H4N2O2S
solvent | diglyme | 5 mL | COCCOCCOC | C6H14O3
solvent | diglyme | 10 mL | COCCOCCOC | C6H14O3
product | 1-(3,4-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide | 0.62 g, 47% | FC=1C=C(C=CC1F)N1S(NC2=C1C=CC=C2)(=O)=O | C12H8F2N2O2S
